US04968340
Preparation of methyl 2-(4,6-dimethoxypyrimidin-2-yl)oxyhexanoate (Compound No. 8)
3.5 g of 2-hydroxy-4,6-dimethoxypyrimidine, 4.7 g of methyl 2-bromohexanoate, 50 ml of N,N-dimethylformamide and 3.3 g of anhydrous potassium carbonate were stirred at a temperature of from 85° to 90° C. for 3 hours. The reaction mixture was cooled to room temperature and then diluted with water. This aqueous mixture was extracted with ethyl ether. The ethyl ether extract was washed with water and dried. Then, ethyl ether was removed by distillation under reduced pressure to obtain a slightly yellow oily substance. The slightly yellow oily substance was purified by silica gel column chromatography (eluent: hexane/ethyl acetate =6/1) to obtain 4.7 g of the desired product.

reactant | 2-hydroxy-4,6-dimethoxypyrimidine | 3.5 g | OC1=NC(=CC(=N1)OC)OC | C6H8N2O3
reactant | methyl 2-bromohexanoate | 4.7 g | BrC(C(=O)OC)CCCC | C7H13BrO2
reactant | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
reactant | potassium carbonate | 3.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | water | O | H2O
product | methyl 2-(4,6-dimethoxypyrimidin-2-yl)oxyhexanoate | 4.7 g | COC1=NC(=NC(=C1)OC)OC(C(=O)OC)CCCC | C13H20N2O5
